### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Abelian): AB4 and AB5 axioms

### PR DESCRIPTION
**Pull request by adamtopaz**
Joint work with @IsaacHernando and Coleton Kotch.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 1]
```diff
@@ -0,0 +1,250 @@
...
+
+/--
+This is the functor `Finset α ⥤ C` which, on objects, sends a finite set `S` to
+`⨁ fun s : S => X s`. We will show below that the colimit of this functor is
+isomorphic to `∐ X`.
+-/
+@[simps]
+noncomputable
+def finsetBiproductDiagram : Finset α ⥤ C where
+  obj S := ⨁ fun s : S => X s
```
Comment (alexjbest) [inline Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:89]: Can this be written as
```suggestion
  obj S := ⨁ X
```
like the ` ∐ X` below?

Comment (adamtopaz) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:89]: It's not the same, since we're restricting here to a finite subset of alpha.

Comment (alexjbest) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:89]: Oh my bad thanks!

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 2]
```diff
@@ -0,0 +1,250 @@
...
+  preservesLimitsOfShape := { preservesLimit := inferInstance }
+
+noncomputable
+instance [HasFiniteLimits C] :
+    PreservesFiniteLimits (discreteDiagramToFinsetBiproductDiagram C α) where
+  preservesFiniteLimits _ _ _ := ⟨ @fun _ => inferInstance ⟩
+
+noncomputable
+instance [HasCoproducts C] [HasFilteredColimitsOfSize.{v} C] [HasFiniteLimits C]
+    [HasZeroMorphisms C] [HasFiniteBiproducts C] [AB5 C] : AB4 C where
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:246]:
```suggestion
instance [HasCoproducts C] [HasFilteredColimits C] [HasFiniteLimits C] [AB5 C] : AB4 C where
```

**Comment by TwoFX** [comment]
I haven't looked at the PR in detail (I will do so tomorrow), but after a quick glance there seems to be some very-near duplication with the file ` Limits/Constructions/Filtered.lean`. @adamtopaz, are you aware of this file?

**Comment by adamtopaz** [comment]
> I haven't looked at the PR in detail (I will do so tomorrow), but after a quick glance there seems to be some very-near duplication with the file ` Limits/Constructions/Filtered.lean`. @adamtopaz, are you aware of this file?

@TwoFX we looked at the file you mentioned. Indeed, the construction we give in `finsetBiproductDiagram` is essentially the same as `liftToFinset` from the file you mentioned. But there is a key difference: we use biproducts whereas that file uses coproducts. The two are of course isomorphic, but it's important for us to use biproducts as in later constructions we need to consider them as limits. We could have used `liftToFinset` instead, but then we would have had additional work managing the isomorphism with products when we want to prove left exactness. Because of this, I don't think it would save any work to use `liftToFinset`.

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 3]
```diff
@@ -0,0 +1,249 @@
...
+      ext ⟨a,ha⟩
+      let K' := K ⋙ (evaluation _ _).obj ⟨a⟩
+      let S' : Cone K' := Functor.mapCone _ S
+      let hS' : IsLimit S' := isLimitOfPreserves _ hS
+      simp only [biproduct.lift_π]
+      apply hS'.hom_ext
+      intro j
+      rw [hS'.fac]
+      simp [hS'.fac, ← (hm j)]
+  }
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:225]:
```suggestion
  preserves {S} hS :=
    { lift := fun E => biproduct.lift fun ⟨a,ha⟩ =>
        let K' := K ⋙ (evaluation _ _).obj ⟨a⟩
        let S' : Cone K' := Functor.mapCone _ S
        let hS' : IsLimit S' := isLimitOfPreserves _ hS
        hS'.lift ⟨_, fun j => E.π.app _ ≫
          biproduct.π (fun a : A => (K.obj j).obj ⟨a⟩) ⟨a, ha⟩,
            by intro i j f; simp [← E.w f]⟩
      fac := by
        intro E j
        dsimp
        ext ⟨a, ha⟩
        let K' := K ⋙ (evaluation _ _).obj ⟨a⟩
        let S' : Cone K' := Functor.mapCone _ S
        let hS' : IsLimit S' := isLimitOfPreserves _ hS
        simp only [biproduct.lift_map, biproduct.lift_π]
        apply hS'.fac
      uniq := by
        intro E m hm
        dsimp
        ext ⟨a,ha⟩
        let K' := K ⋙ (evaluation _ _).obj ⟨a⟩
        let S' : Cone K' := Functor.mapCone _ S
        let hS' : IsLimit S' := isLimitOfPreserves _ hS
        simp only [biproduct.lift_π]
        apply hS'.hom_ext
        intro j
        rw [hS'.fac]
        simp [hS'.fac, ← (hm j)] }
```

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 4]
```diff
@@ -0,0 +1,249 @@
...
+  infer_instance
+
+noncomputable
+instance [HasLimits C] : PreservesLimits (discreteDiagramToFinsetBiproductDiagram C α) where
+  preservesLimitsOfShape := { preservesLimit := inferInstance }
+
+noncomputable
+instance [HasFiniteLimits C] :
+    PreservesFiniteLimits (discreteDiagramToFinsetBiproductDiagram C α) where
+  preservesFiniteLimits _ _ _ := ⟨ @fun _ => inferInstance ⟩
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:242]:
```suggestion
  preservesFiniteLimits _ _ _ := ⟨@fun _ => inferInstance⟩
```

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 5]
```diff
@@ -0,0 +1,249 @@
+/-
+Copyright (c) 2023 Adam Topaz. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Isaac Hernando, Coleton Kotch, Adam Topaz
+-/
+
+import Mathlib.CategoryTheory.Abelian.Basic
+import Mathlib.CategoryTheory.Limits.Filtered
+import Mathlib.CategoryTheory.Limits.FunctorCategory
+import Mathlib.CategoryTheory.Adjunction.Limits
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:10]:
```suggestion
import Mathlib.CategoryTheory.Adjunction.Limits
import Mathlib.CategoryTheory.Limits.Filtered
import Mathlib.CategoryTheory.Limits.FunctorCategory
import Mathlib.CategoryTheory.Limits.Preserves.Finite
import Mathlib.CategoryTheory.Limits.Shapes.Biproducts
```

**Review by TwoFX — COMMENTED** [review]
In `GroupCat/Abelian.lean` there is a proof that `AddCommGroup` is AB5. Would you mind putting the instance for your new class there?

**Comment by javra** [comment]
The way it is now we're not able to derive AB4 from AB5 in all cases because it requires `HasFiniteBiproducts C`. Requiring all of `HasFiniteBiproducts C`, `HasCoproducts C`, `HasFilteredColimits C`, and `HasFiniteLimits C` as preconditions for `instAB4OfHasFiniteLimitsOfAB5` seems to be more than necessary?

**Comment by dagurtomas** [comment]
Can you relate this to exact sequences in abelian categories? Right now, the file `Algebra.Category.Grp.AB5` contains a proof that `AddCommGrp` satisfies AB5 in the sense of filtered colimits preserving finite limits, and in the sense of preserving short exact sequences (phrased as `PreservesHomology`). These are of course equivalent in all abelian categories. How much work would it be to prove this equivalence?

**Comment by javra** [comment]
> How much work would it be to prove this equivalence?

I think `CategoryTheory.Functor.exact_tfae` is the equivalence you're looking for. :smiley:

**Comment by dagurtomas** [comment]
Sorry, I misread!

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 6]
```diff
@@ -0,0 +1,259 @@
...
+
+universe v v' u u'
+
+variable (C : Type u) [Category.{v} C]
+
+--Right exactness for arbitrary shapes.
+noncomputable
+example (J : Type u') [Category.{v'} J] [HasColimitsOfShape J C] :
+    PreservesFiniteColimits (colim (J := J) (C := C)) :=
+  inferInstance
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:51]: What is the purpose of this example? Removing it allows you to remove the import `Adjunction.Limits` and the `noshake`.

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 7]
```diff
@@ -0,0 +1,259 @@
...
+/--
+IMPLEMENTATION: A single component of `discreteDiagramToFinsetBiproductDiagram`.
+-/
+@[simps]
+noncomputable
+def discreteDiagramToBiproduct (A : Finset α) :
+    (Discrete α ⥤ C) ⥤ C where
+  obj F := ⨁ fun a : A => F.obj ⟨a⟩
+  map η := biproduct.map fun _ => η.app _
+
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:196]: Up until this point, everything could be done for coproducts instead of biproducts. I imagine that it would be useful to write an arbitrary coproduct as a filtered colimit its finite "sub-coproducts" (and the dual for products). This would need to be done for general cofans rather than the arbitrary chosen coproduct `∐`. Could you try this alternate approach and see if it works?

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean (hunk 6 above)
Comment (javra) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:51]: Ah, I guess @adamtopaz put it in for teaching purposes, will remove it.

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean (hunk 7 above)
Comment (javra) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:189]: Sounds like a good idea, I'll give it a try.

**Comment by dagurtomas** [comment]
As you want, I think it would make sense to have three PRs total, the first defining the AB4 and AB5 axioms (adding AB4* and AB5* should be an easy dualization as well), the second (independent of the first) writing a coproduct as a filtered colimit (and preferably also the dual statement), and the third, depending on both the first and second, which proves that AB5 implies AB4.

You should open new PRs for the first and second, and eventually merge them into this one, making it the third.

**Comment by dagurtomas** [comment]
I see now that @TwoFX's comment about duplication from last year is essentially the same as my comment. I think the solution is to generalize the `liftToFinset` stuff to general cocones/cofans instead of duplicating to apply to biproducts (the generalised API should apply to both situations)

**Comment by javra** [comment]
Should I call the duals `CoAB4` and `CoAB5`? :thinking:

**Comment by javra** [comment]
I now made this PR only contain the definitions for AB4, AB5, and their duals and I'm working on a second one that contains the following
* Turn `liftToFinset` into a functor `(Discrete α ⥤ C) ⥤ Finset (Discrete α) ⥤ C`
* Use `preservesLimitsOfEvaluation` (or a modified version of it for finite limits) to prove that it preservers finite limits. (The proof obligation is that for each finite `J`, we need to show that the coproduct over `J` preserves finite limits, maybe that's already available somewhere.

Then I can add to a third PR or here the implication AB5 -> AB4 which should be just a few lines plus the proof that
`colim ≅ liftToFinset ⋙ colim` (is this where you think we need to generalize `liftToFinset` to arbitrary cofans, @dagurtomas ?)

**Comment by dagurtomas** [comment]
What I had in mind was pretty vague, and for the iso you mention I don't think you need to generalize to arbitrary cofans. 

Using the approach you describe, you just need to prove that finite coproducts preserve finite limits whenever the category has finite biproducts, which is already a better approach than what was initially done in this PR.

I'll review this now and look forward to seeing the other PRs!

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 8]
```diff
@@ -0,0 +1,97 @@
...
+universe v v' u u'
+
+variable (C : Type u) [Category.{v} C]
+
+/--
+A category `C` which has coproducts is said to have `AB4` provided that
+coproducts are exact.
+-/
+class AB4 [HasCoproducts C] where
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:48]: Should this be `extends HasCoproducts C`?

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 9]
```diff
@@ -0,0 +1,97 @@
...
+  preservesFiniteLimits (α : Type v) :
+    PreservesFiniteLimits (colim (J := Discrete α) (C := C))
+
+instance [HasCoproducts C] [AB4 C] (α : Type v) :
+    PreservesFiniteLimits (colim (J := Discrete α) (C := C)) :=
+  AB4.preservesFiniteLimits _
+
+/-- A Category `C` which has products is said to have `CoAB4` (in literature `AB4*`)
+provided that products are exact. -/
+class CoAB4 [HasProducts C] where
```
[the remark this answers is not in the document]
Comment (javra) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:59]: `AB4Star` maybe? They did the same thing with C*-algebras, so I'll conform with that.

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean (hunk 8 above)
Comment (javra) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:48]: I'm always unsure. I guess it depends on whether instances will rather have a `HasCoproducts` instance that's already defined prior to a `AB4` instance?

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:46]: I'm also unsure, you should ask on zulip

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:46]: This seems to have been resolved on zulip, let's keep it like this!

**Comment by dagurtomas** [comment]
maintainer merge

File: Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean [hunk 10]
```diff
@@ -0,0 +1,86 @@
...
+# Grothendieck Axioms
+
+This file defines some of the Grothendieck Axioms for abelian categories, and proves
+basic facts about them.
+
+## Definitions
+
+- `AB4` -- an abelian category satisfies `AB4` provided that coproducts are exact.
+- `AB5` -- an abelian category satisfies `AB5` provided that filtered colimits are exact.
+- The duals of the above definitions, called `AB4Star` and `AB5Star`.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:21]: Could you add references (e.g. to the Stacks project) because these phrasing of the definitions are not exactly the same as in the original Grothendieck Tohoku article.

Comment (javra) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:21]: @adamtopaz Did you have any specific references? [The stacks site](https://stacks.math.columbia.edu/tag/079A) is phrased in a way that presupposes the category to be Abelian, which we, for good reason, don't...

Comment (adamtopaz) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:21]: I wasn't following any references. I suppose that in lieu of references you could explain in the module docstring how the definitions here relate to those in Tohoku and/or the stacks project.

Comment (javra) [reply Mathlib/CategoryTheory/Abelian/GrothendieckAxioms.lean:21]: Are the few sentences sufficient, @joelriou?

**Review by TwoFX — APPROVED** [review]
bors r+
